US04904690
1-(5-Chloro-2-hydorxy-3-methylphenyl)-3-cyclohexyl-1,3-propanedione
2-Acetyl-4-chloro-6-methylphenol (1.84 g) and methyl cyclohexanecarboxylate (1.7 g) were dissolved in toluene (36 ml) and to the solution was added 60% sodium hydride (0.96 g). Then, the mixture was heated under reflux for 16 hours. The mixture was poured into cold water. Diluted hydrochloric acid was added and crystals precipitated were filtered and recrystallized from methanol to obtain the title compound, yield 1.54 g (52.2%). The melting point and IR and NMR spectra were identical with those of the compound of Reference Example 5.

reactant | 2-Acetyl-4-chloro-6-methylphenol | 1.84 g | C(C)(=O)C1=C(C(=CC(=C1)Cl)C)O | C9H9ClO2
reactant | methyl cyclohexanecarboxylate | 1.7 g | C1(CCCCC1)C(=O)OC | C8H14O2
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(5-Chloro-2-hydorxy-3-methylphenyl)-3-cyclohexyl-1,3-propanedione | ClC=1C=C(C(=C(C1)C(CC(=O)C1CCCCC1)=O)O)C | C16H19ClO3
